US09371320B2
A) (4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thienyl)acetonitrile
A mixture of (4-bromo-2-thienyl)acetonitrile (1.70 g) synthesized according to the method described in WO 2006/138264, 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (2.56 g), (1,1′-bis(diphenylphosphino)ferrocene)dichloropalladium(II) (308 mg), potassium acetate (1.65 g) and DMF (10 mL) was stirred at 80° C. for 3 hr. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (2.01 g).

reactant | (4-bromo-2-thienyl)acetonitrile | 1.70 g | BrC=1C=C(SC1)CC#N | C6H4BrNS
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 2.56 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 1.65 g | C(C)(=O)[O-].[K+]
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thienyl)acetonitrile | 2.01 g | CC1(OB(OC1(C)C)C=1C=C(SC1)CC#N)C | C12H16BNO2S
